US06677368B2
(R)-1-{2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carbonyl}-piperidine-3-carboxylic Acid Cyclopropylamide
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (108 mg, 0.3 mmol) was coupled with (R)-piperidine-3-carboxylic acid cyclopropylamide (69.3 mg, 1.5 eq.), HOBt (40.5 mg, 1 eq.), EDC (86 mg, 1.5 eq.) and TEA (0.06 mL) in DMF (1 mL) to give 57 mg (37%) of the titled compound.

reactant | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.3 mmol, 108 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | (R)-piperidine-3-carboxylic acid cyclopropylamide | 69.3 mg, 1.5 eq. | C1(CC1)NC(=O)[C@H]1CNCCC1 | C9H16N2O
reactant | HOBt | 40.5 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 86 mg, 1.5 eq.
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-{2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carbonyl}-piperidine-3-carboxylic Acid Cyclopropylamide | 57 mg, 37% | C1(CC1)NC(=O)[C@H]1CN(CCC1)C(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C30H29FN4O3
